US07981924B2
To a solution of 3-{4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-2,6-dimethyl-phenyl}-propionic acid (610 mg, 1.44 mmol) and DIPEA (204 mg, 1.58 mmol) in ethanol (30 mL) is added Pd/C (300 mg, 10% Pd, moistened with 50% water). The slurry is stirred at rt for 18 h under 1 atm H2. The mixture is filtered and the filtrate is evaporated. The crude product is purified by prep. HPLC (Grom-Sil 120 ODS-4-HE, 30×75 mm, 10 μm, acetonitrile/water (0.5% HCOOH), 20% to 95% acetonitrile) to give 3-{4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propyl]-2,6-dimethyl-phenyl}-propionic acid (460 mg) as a colourless lyophilisate; LC-MS: tR=1.15 min; [M+1]=427.40; 1H NMR (CDCl3): δ 6.91 (s, 2H), 3.10-2.90 (m, 8H), 2.73 (q, J=7.6 Hz, 2H), 2.53-2.46 (m, 2H), 2.32 (s, 6H), 2.30 (s, 2H), 1.54 (t, J=7.0 Hz, 2H), 1.28 (t, J=7.6 Hz, 3H), 0.97 (s, 6H).

reactant | 3-{4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-2,6-dimethyl-phenyl}-propionic acid | 1.44 mmol, 610 mg | C(C)C1=C2C(=C(S1)C(C=CC1=CC(=C(C(=C1)C)CCC(=O)O)C)=O)CCC(C2)(C)C | C26H32O3S
reactant | DIPEA | 1.58 mmol, 204 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 3-{4-[3-(3-ethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propyl]-2,6-dimethyl-phenyl}-propionic acid | 460 mg | C(C)C1=C2C(=C(S1)C(CCC1=CC(=C(C(=C1)C)CCC(=O)O)C)=O)CCC(C2)(C)C | C26H34O3S
